US06002008
4-(3-Bromo-phenylamino)-6-(3-pyrrolidin-1-yl-propylamino)-quinoline-3-carbonitrile
Dissolved 0.64 g (3.69 mmol) 3-(pyrrolidin-1-yl)propionaldehyde dimethyl acetal in 10 ml water and acidified to pH 1 with concentrated HCl. Heated to 40° C. for 90 minutes, removed heat and neutralized with sodium bicarbonate. Dissolved 500 mg (1.47 mmol) 6-amino-4-(3-bromo-phenylamino)-quinoline-3-carbonitrile in 100 ml ethanol and added acetic acid until pH was 3 to 4. Added the deprotected aldehyde to the amine solution and stirred at 25° C. for 0.5 hour. Gradually added 94 mg (1.47 mmol) sodium cyanoborohydride and stirred overnight. Stripped solvent, partitioned between chloroform and water. Washed organic layer with brine and dried with sodium sulfate. Stripped solvent and filtered through a pad of silica gel, first with 10% methanol/chloroform, then 20% methanol/chloroform/1% ammonium hydroxide. Stripped solvent and dried in vacuo, giving 143 mg of yellow-brown solid: mass spectrum (electrospray m/e): M+H=450,452.1.

reactant | 3-(pyrrolidin-1-yl)propionaldehyde dimethyl acetal | 3.69 mmol, 0.64 g | COC(CCN1CCCC1)OC | C9H19NO2
reactant | HCl | Cl | ClH
reactant | 6-amino-4-(3-bromo-phenylamino)-quinoline-3-carbonitrile | 1.47 mmol, 500 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
reactant | sodium cyanoborohydride | 1.47 mmol, 94 mg | C(#N)[BH3-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(3-Bromo-phenylamino)-6-(3-pyrrolidin-1-yl-propylamino)-quinoline-3-carbonitrile | 143 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NCCCN1CCCC1)C#N | C23H24BrN5
